US07531532B2
N-(4-Fluorophenyl)-N′-[2-methyl-4-(2-{[(4-pyrrolidin-1-yl)piperidine-1-carbonyl]amino}pyridin-4-yloxy)phenyl]malonamide
To a solution of N-[4-(2-aminopyridin-4-yloxy)-2-methylphenyl]-N′-(4-fluorophenyl)malonamide (60 mg) in tetrahydrofuran (6 ml)-N,N-dimethylformamide (0.090 ml) was added triethylamine (0.042 ml), and then phenyl chloroformate (0.0378 ml) was added thereto while cooling in an ice water bath, followed by stirring for 20 min. The reaction mixture was concentrated under a reduced pressure. To a suspension of the residue in N,N-dimethylformamide (2.4 ml) was added 4-(1-pyrrolidinyl)piperidine (93 mg), followed by stirring at room temperature for 5 hrs. The reaction mixture was partitioned between ethyl acetate (50 ml) and a 1 N aqueous solution of sodium hydroxide (30 ml). The organic layer was washed with brine, dried over anhydrous sodium sulfate, and subjected to silica gel filtration (FUJI Silysia NH). The filtrate was concentrated under a reduced pressure to give a residue, which was then suspended in ethanol (0.5 ml) and ethyl acetate (1 ml)-diethyl ether (5 ml). The solid was filtered off, washed with diethyl ether and dried under aeration to provide the titled compound (62.4 mg, 71.4%) as colorless powder.

reactant | N-[4-(2-aminopyridin-4-yloxy)-2-methylphenyl]-N′-(4-fluorophenyl)malonamide | 60 mg | NC1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(CC(=O)NC1=CC=C(C=C1)F)=O)C | C21H19FN4O3
reactant | N,N-dimethylformamide | 0.090 ml | CN(C=O)C | C3H7NO
reactant | triethylamine | 0.042 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.0378 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | N-(4-Fluorophenyl)-N′-[2-methyl-4-(2-{[(4-pyrrolidin-1-yl)piperidine-1-carbonyl]amino}pyridin-4-yloxy)phenyl]malonamide | 62.4 mg, 71.4% | FC1=CC=C(C=C1)NC(CC(=O)NC1=C(C=C(C=C1)OC1=CC(=NC=C1)NC(=O)N1CCC(CC1)N1CCCC1)C)=O | C31H35FN6O4
